US08871774B2
Formation of 5-chloro-2-fluoronicotinaldehyde (27)
To a cold (0° C.) solution of diisopropylamine (12.8 mL, 91.2 mmol) in THF (100 mL) was added butyllithium (31.9 mL of 2.5 M, 79.8 mmol) over 5 min. After 5 min, the reaction was cooled to −78° C. for 15 min. Then 5-chloro-2-fluoro-pyridine (10.0 g, 76.0 mmol) was slowly added over 5 min. The reaction was kept at −78° C. for an additional 1.5 hr. Then, morpholine-4-carbaldehyde (17.5 g, 152.1 mmol) was added rapidly. The mixture was stirred for a further 2 min and quenched with 10% citric acid and the mixture was allowed to warm to room temperature. The pH was adjusted to 5-6 with additional citric acid solution. The mixture was extracted with dichloromethane (3×200 mL) and the combined organic layers were dried over Na2SO4, filtered and concentrated. Flash chromatography (SiO2, 0-25% EtOAc-Hexanes, gradient elution) provided the desired product as an off-white crystalline solid (8.95 g, 74% yield). LC-MS shows the mass for the desired product and the corresponding hydrate: 1H NMR (300 MHz, CDCl3) δ 10.28 (d, J=8.4 Hz, 1H), 8.41 (t, J=1.4 Hz, 1H) and 8.25 (dd, J=2.7, 7.8 Hz, 1H) ppm; LC/MS Gradient 10-90%, 0.1% formic 5 min, C18/ACN, RT=2.45 min, (M+H) 159.91.

reactant | diisopropylamine | 91.2 mmol, 12.8 mL | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | 79.8 mmol, 2.5 M, 31.9 mL | C(CCC)[Li]
reactant | 5-chloro-2-fluoro-pyridine | 76.0 mmol, 10.0 g | ClC=1C=CC(=NC1)F | C5H3ClFN
reactant | morpholine-4-carbaldehyde | 152.1 mmol, 17.5 g | N1(CCOCC1)C=O | C5H9NO2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 5-chloro-2-fluoronicotinaldehyde | 8.95 g, 74% yield | ClC=1C=NC(=C(C=O)C1)F | C6H3ClFNO
